US08314081B2
To a 250 mL dry round bottom flask were added 2-oxazolidinone (4.35 g, 50.0 mmol), triphosgene (5.49 g, 18.5 mmol) and anhydrous THF (80 mL). The mixture was stirred in an ice-water bath, then triethylamine (9.8 mL, 70.0 mmol) was added slowly. After stirring at 0° C. for 1 hour, the mixture was stirred continually at room temperature overnight. The reaction mixture was filtered and the filtrate was concentrated. The residue was dissolved in 20 mL of CH2Cl2, and this solution was added slowly to a stirring mixture of 2,6-difluoro-4-hydroxybenzaldehyde (5.93 g, 27.5 mmol) and pyridine (4.44 mL, 55.0 mmol) in 30 mL of anhydrous CH2Cl2 at 0° C. After stirring at room temperature for 10 hours, water (100 mL) was added to the reaction mixture. The CH2Cl2 layer was separated, and the aqueous layer was extracted continually with CH2Cl2 (50 mL×4). The combined CH2Cl2 solution was dried over Na2SO4. After removal of the solvent, the residue was purified with a silica gel chromatography (heptane/ethyl acetate, gradient eluting) to give 3,5-difluoro-4-formylphenyl 2-oxooxazolidine-3-carboxylate (4.92 g) as a white solid. Yield: 33%. 1H NMR (CDCl3, 300 MHz): δ=10.29 (s, 1H), 6.98 (dd, J=10.8, 2.1 Hz, 2H), 4.51 (t, J=7.8 Hz, 2H), 4.18 (t, J=7.6 Hz, 2H). 13C NMR (CDCl3, 75.5 MHz): δ=183.5, 163.7 (dd, J=263.6, 8.00 Hz), 151.2, 148.0, 112.6, 106.8 (dd, J=25.7, 3.70 Hz), 62.1, 43.7.

reactant | 2-oxazolidinone | 50.0 mmol, 4.35 g | O1C(NCC1)=O | C3H5NO2
reactant | triphosgene | 18.5 mmol, 5.49 g | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | triethylamine | 70.0 mmol, 9.8 mL | C(C)N(CC)CC | C6H15N
reactant | 2,6-difluoro-4-hydroxybenzaldehyde | 27.5 mmol, 5.93 g | FC1=C(C=O)C(=CC(=C1)O)F | C7H4F2O2
reactant | pyridine | 55.0 mmol, 4.44 mL | N1=CC=CC=C1 | C5H5N
solvent | CH2Cl2 | 30 mL | C(Cl)Cl | CH2Cl2
solvent | water | 100 mL | O | H2O
solvent | THF | 80 mL | C1CCOC1 | C4H8O
product | 3,5-difluoro-4-formylphenyl 2-oxooxazolidine-3-carboxylate | 4.92 g, Yield: 33% | O=C1OCCN1C(=O)OC1=CC(=C(C(=C1)F)C=O)F | C11H7F2NO5
